US06878736B1
N-(4-Chlorobenzyl)-N′-(3-pyrrolidin-1-yl-propyl)-sulfamide.
A solution of 4-CHLOROBENZYLAMINE (0.610 ml, 5.00 mmol), 1-(3-aminopropyl)pyrrolidine (0.632 ml, 5.00 mmol) and sulfamide (480 mg, 4.99 mol) was heated at reflux for 2 h. The reaction was allowed to cool and partitioned between ethyl acetate (20 ml) and water (20 ml). The aqueous was discarded and the organic phase washed with water (20 ml) and brine (20 ml). The organic phase was dried over anhydrous sodium sulfate and the filtrate was evaporated at reduced pressure. The residue was purified by flash column chromatography (100:10:1 DCM: methanol) to obtain the title compound as a white solid (365 mg, 22%). 1HNMR 7.35-7.28 (4H, m), 4.18 (2H, s), 3.15 (2H, t, 6), 2.61 (2H, t, 6), 2.51 (4H, br m), 1.82-1.67 (6H, m). Microanalysis found C 49.97 H 6.73 N 12.50 C14H22ClN3O2S-0.26H2O requires C 49.96 H 6.74 N 12.49.

reactant | 4-CHLOROBENZYLAMINE | 5.00 mmol, 0.610 ml | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | 1-(3-aminopropyl)pyrrolidine | 5.00 mmol, 0.632 ml | NCCCN1CCCC1 | C7H16N2
reactant | sulfamide | 4.99 mol, 480 mg | S(=O)(=O)(N)N | H4N2O2S
product | N-(4-Chlorobenzyl)-N′-(3-pyrrolidin-1-yl-propyl)-sulfamide | 365 mg, 22% | ClC1=CC=C(CNS(=O)(=O)NCCCN2CCCC2)C=C1 | C14H22ClN3O2S
